US07476666B2
Step 4: Methyl 3-hydroxy-5-methyl-4-oxo-7-pyridin-3-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of methyl 3-benzyloxy-5-methyl-4-oxo-7-pyridin-3-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (0.48 g, 1.2 mmol) in MeOH (25 mL) was added 10% palladium on carbon (60 mg). The mixture was stirred under an atmosphere of hydrogen gas for 2 hours. The reaction was then filtered through celite, and the filtrate solvent was removed in vacuo to give the product as a gum. ES MS (M+1)=303.

reactant | methyl 3-benzyloxy-5-methyl-4-oxo-7-pyridin-3-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 1.2 mmol, 0.48 g | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C=2C=NC=CC2)C)=O)C(=O)OC | C21H20N4O4
solvent | MeOH | 25 mL | CO | CH4O
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
product | Methyl 3-hydroxy-5-methyl-4-oxo-7-pyridin-3-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | OC=1C(=NN2C1C(N(CC2C=2C=NC=CC2)C)=O)C(=O)OC | C14H14N4O4
